US07612067B2
E. 3-(2-bromo-4-trifluoromethyl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
To a solution of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(4-trifluoromethyl-thiazol-5-yl)-imidazo[1,2-b]pyridazine (915 mg, 2.48 mmol) in 40 mL of THF under N2 atmosphere al −78° C., BuLi (1.86 mL 1.6 M in hexane, 2.98 mmol) is slowly added. The mixture is stirred at −78° C. for 30 minutes. Then, a solution of CBr4 (989 mg, 2.98 mmol) in 3 mL of THF is added, and the mixture is stirred at −78° C. for 45 minutes. The reaction is quenched by addition of NH4Cl saturated solution (50 mL), extracted with Et2O (2×50 mL), dried over MgSO4, and concentrated in vacuo. Crude product is purified by flash chromatography on silica gel (eluent CH2Cl2) to obtain 685 mg of the title compound (Yield: 62%). 1H NMR (CDCl3): δ0.86 (t, J=7.5 Hz, 6H), 1.82 (m, 4H), 2.45 (s, 3H), 2.51 (s, 3H), 3.27 (m, 1H), 6.74 (s, 1H). ESIMS: m/z 447, 449 [M+H]+.

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(4-trifluoromethyl-thiazol-5-yl)-imidazo[1,2-b]pyridazine | 2.48 mmol, 915 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=CS2)C(F)(F)F | C17H19F3N4S
reactant | BuLi | 2.98 mmol, 1.6 M, 1.86 mL | [Li]CCCC
reactant | CBr4 | 2.98 mmol, 989 mg | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(2-bromo-4-trifluoromethyl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 685 mg, Yield: 62% | BrC=1SC(=C(N1)C(F)(F)F)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C17H18BrF3N4S
